US08648068B2
XX.2 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline
4-(5-Fluoro-2-nitrophenoxy)tetrahydro-2-H-pyran (8.4 g) was dissolved in ethylacetate (30 ml) and Pd/C (500 mg) was added. The reaction was hydrogenated at room temperature and 50 PSI. The mixture was concentrated in vacuo to give the intended product.

reactant | 4-(5-Fluoro-2-nitrophenoxy)tetrahydro-2-H-pyran | 8.4 g | FC=1C=CC(=C(OC2CCOCC2)C1)[N+](=O)[O-] | C11H12FNO4
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline | FC1=CC(=C(N)C=C1)OC1CCOCC1 | C11H14FNO2
